US06323155B1
Methyl 2-nitro-4-trifluoromethoxybenzoate (10 g) and 5% palladium on activated carbon (0.5 g) in methanol was hydrogenated for 20 hours at ambient temperature. The mixture was filtered and the filtrate evaporated to give methyl 2-amino-4-trifluoromethoxybenzoate (8.35 g) as a brown oil, NMR (CDCl3) 3.9(s,3H), 5.9(brs,2H), 6.55(m,2H), 7.9(d,1H).

reactant | Methyl 2-nitro-4-trifluoromethoxybenzoate | 10 g | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)OC(F)(F)F | C9H6F3NO5
catalyst | palladium on activated carbon | 0.5 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 2-amino-4-trifluoromethoxybenzoate | 8.35 g | NC1=C(C(=O)OC)C=CC(=C1)OC(F)(F)F | C9H8F3NO3
